US09376394B2
Li-Mei et al., in Zhongguo Xinyao Zazhi (2007), 16(23), 1960-1961, 1970 disclose a process for the preparation of bendamustine hydrochloride monohydrate, which involves reacting [1-methyl-2-(4′-ethyl butyrate)-5-amino]-1H-benzimidazole with ethylene oxide in the presence of water, sodium acetate and acetic acid, by maintaining at 5° C. for 5 hours and overnight at 20° C. to give (4-{5-[bis-(2-hydroxy-ethyl)-amino]-1-methyl-1H-benzimidazol-2-yl}-butyric acid ethyl ester as a jelly mass, which on chlorination using thionyl chloride in chloroform and in situ hydrolysis with concentrated HCl at 90-95° C. gave bendamustine hydrochloride. It also discloses a process for the recrystallization of bendamustine hydrochloride from water and the product obtained is a monohydrate with a melting point of 148-151° C.

reactant | bendamustine hydrochloride monohydrate | CN1C2=C(C=C(C=C2)N(CCCl)CCCl)N=C1CCCC(=O)O.O.Cl
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | water | O | H2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-{5-[bis-(2-hydroxy-ethyl)-amino]-1-methyl-1H-benzimidazol-2-yl}-butyric acid ethyl ester | C(C)OC(CCCC1=NC2=C(N1C)C=CC(=C2)N(CCO)CCO)=O | C18H27N3O4
